US07884107B2
Sodium methoxide (30% in methanol, 7.46 mmol) was added to 3-chloromethyl-5-methyisoxazole (491 mg, 3.73 mmol) in methanol (4 mL) at room temperature under nitrogen. The reaction mixture was stirred for 15 h at room temperature then heated to reflux for 3 h. After cooling to room temperature the reaction was diluted with ether (75 mL) and washed with saturated aqueous ammonium chloride (15 mL), water (15 mL), and brine (15 mL). The organic layer was dried over magnesium sulfate, filtered, and evaporated to provide 362 mg (76% yield) of 3-methoxymethyl-5-methyl isoxazole as a clear liquid which was used in the next step without further purification: 1H NMR (300 MHz, CDCl3) δ ppm 6.02 (s, 1H), 4.48 (s, 2H), 3.38 (s, 3H), 2.42 (d, J=0.6 Hz, 3H).

reactant | Sodium methoxide | 7.46 mmol | C[O-].[Na+]
reactant | 3-chloromethyl-5-methyisoxazole | 3.73 mmol, 491 mg | ClCC1=NOC(=C1)C | C5H6ClNO
solvent | methanol | 4 mL | CO | CH4O
solvent | ether | 75 mL | CCOCC | C4H10O
product | 3-methoxymethyl-5-methyl isoxazole | 362 mg, 76% yield | COCC1=NOC(=C1)C | C6H9NO2
